US08242153B2
To a stirred solution of tert-butyl(S)-4-(2-hydroxyethyl)-2,2-dimethyloxazolidine-3-carboxylate (300 mg; CAS 147959-18-0) in THF (4 ml) under an argon atmosphere was added sodium hydride (59 mg, 60% dispersion in oil). The resulting suspension was heated at 50° C. for 20 min and then cooled to 0° C. A solution of 2-chloro-5-trifluoromethyl-pyridine (222 mg) in THF (2 ml) was then added dropwise and the resulting mixture was heated at 70° C. for 3 h. The reaction mixture was cooled to room temperature and diluted with ethyl acetate. The mixture was washed with saturated brine, the phases were separated and the organic phase was dried over sodium sulphate and concentrated in vacuo. The residue was purified by column chromatography (SiO2; gradient: heptane/EtOAc) to give (S)-2,2-dimethyl-4-[2-(5-trifluoromethyl-pyridin-2-yloxy)-ethyl]-oxazolidine-3-carboxylic acid tert-butyl ester (393 mg, 82%) as a colourless oil. MS (ISP): 391.3 ([M+H]+).

reactant | tert-butyl(S)-4-(2-hydroxyethyl)-2,2-dimethyloxazolidine-3-carboxylate | 300 mg | OCC[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C12H23NO4
reactant | sodium hydride | 59 mg | [H-].[Na+]
reactant | 2-chloro-5-trifluoromethyl-pyridine | 222 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2,2-dimethyl-4-[2-(5-trifluoromethyl-pyridin-2-yloxy)-ethyl]-oxazolidine-3-carboxylic acid tert-butyl ester | 393 mg, 82% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CCOC1=NC=C(C=C1)C(F)(F)F)(C)C | C18H25F3N2O4
